US07495001B2
E] [rac]-2-Methoxy-3-(4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-naphthalen-2-yl)-propionic acid
0.43 g (0.82 mmol) of the above prepared [rac]-2-methoxy-3-(4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-naphthalen-2-yl)-propionic acid methyl ester was dissolved in 15 ml of THF/MeOH (2:1); to the stirred solution was then added 1.64 ml of LiOH-solution (1 molar in water). After one hour, the reaction mixture was poured onto crashed ice/HCl and extracted twice with CH2Cl2; the organic layers were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by chromatography [SiO2, CH2Cl2/MeOH (0 to 5% MeOH)] to give 0.42 g of pure title compound as light yellow solid.

reactant | [rac]-2-methoxy-3-(4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-naphthalen-2-yl)-propionic acid methyl ester | COC(C(CC1=CC2=CC=CC=C2C(=C1)OCCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)OC)=O | C30H28F3NO4
reactant | LiOH | 1 molar, 1.64 ml | [Li+].[OH-]
solvent | THF MeOH | 15 ml | C1CCOC1.CO
product | [rac]-2-Methoxy-3-(4-{2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-naphthalen-2-yl)-propionic acid | 0.42 g | COC(C(=O)O)CC1=CC2=CC=CC=C2C(=C1)OCCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C29H26F3NO4
